US08471027B2
A 2 L 3-necked round-bottomed flask equipped with a stirrer, a nitrogen bubbler, an addition funnel and a thermometer was charged with 1-(4-chloro-2-(phenylamino)phenyl)ethanone (79.3 g, 323 mmol) and methanol (628 g, 793 mL). The reaction was treated while stirring with a solution of sodium methoxide (25 wt % in methanol, 119 mL, 520 mmol) followed by addition of methyl 4-formylbenzoate (53.0 g, 323 mmol). The reaction mixture was allowed to stir overnight. At this time, the reaction was cooled in an ice bath. The resulting solids were collected by filtration, washed with cold methanol and dried to afford 4-[(E)-3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propenyl]-benzoic acid methyl ester (115 g, 90.9%) as a red solid. This material was used without further purification.

reactant | 1-(4-chloro-2-(phenylamino)phenyl)ethanone | 323 mmol, 79.3 g | ClC1=CC(=C(C=C1)C(C)=O)NC1=CC=CC=C1 | C14H12ClNO
reactant | sodium methoxide | 520 mmol, 119 mL | C[O-].[Na+]
reactant | methyl 4-formylbenzoate | 323 mmol, 53.0 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | methanol | 793 mL, 628 g | CO | CH4O
product | 4-[(E)-3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propenyl]-benzoic acid methyl ester | 115 g, 90.9% | COC(C1=CC=C(C=C1)\C=C\C(=O)C1=C(C=C(C=C1)Cl)NC1=CC=CC=C1)=O | C23H18ClNO3
